US07011838B2
Using 1.00 g of (4-chlorobenzyl)malononitrile, 10 ml of N,N-di-methylformamide, 0.21 g of sodium hydride (60% in oil), and 1.44 g of 4-iodo-1,1,1,2,2-pentafluorobutane, and according to the process described in the Production Example 1, there was obtained 0.47 g of 2-(4-chlorobenzyl)-2-(3,3,4,4,4-pentafluorobutyl)malononitrile (the present compound (23)).

reactant | (4-chlorobenzyl)malononitrile | 1.00 g | ClC1=CC=C(CC(C#N)C#N)C=C1 | C10H7ClN2
reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | 4-iodo-1,1,1,2,2-pentafluorobutane | 1.44 g | ICCC(C(F)(F)F)(F)F | C4H4F5I
solvent | N,N-di-methylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobenzyl)-2-(3,3,4,4,4-pentafluorobutyl)malononitrile | 0.47 g, Yield: 28% | ClC1=CC=C(CC(C#N)(C#N)CCC(C(F)(F)F)(F)F)C=C1 | C14H10ClF5N2
